US05123951
Ethyl 2-carboxy-3-methyloxiranecarboxylate (5.09 grams, 0.03 mole), prepared in Part B, 4-bromo-2-methylaniline (5.44 grams, 0.03 mole) and 1,3-dicyclohexylcarbodiimide (6.03 grams, 0.03 mole) were reacted in a manner similar to that described in Example LVII to give 4.72 grams (0.014 mole) of N-(4-bromo-2-methylphenyl)-2-ethoxycarbonyl-3-methyloxiranecarboxamide having a melting point of 57° C.-60° C.

reactant | Ethyl 2-carboxy-3-methyloxiranecarboxylate | 0.03 mole, 5.09 grams | C(=O)(O)C1(OC1C)C(=O)OCC | C7H10O5
reactant | 4-bromo-2-methylaniline | 0.03 mole, 5.44 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | 1,3-dicyclohexylcarbodiimide | 0.03 mole, 6.03 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | N-(4-bromo-2-methylphenyl)-2-ethoxycarbonyl-3-methyloxiranecarboxamide | 0.014 mole, 4.72 grams | BrC1=CC(=C(C=C1)NC(=O)C1(OC1C)C(=O)OCC)C | C14H16BrNO4
